US05656626
8-Chloro-4-furan-2-yl-3-hydroxy-1H-benzo(b)azepine-2,5-dione
A solution of tri(2-furyl)phosphine (0.026 g) and tris(dibenzylideneacetone)dipalladium (O) (0.026 g) in toluene (50 mL) was allowed to stir for 10 minutes. To this solution was added 8-chloro-4-iodo-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz-[b]azepine (1.0 g), followed by 2-tributylstannylfuran (1.2 g). The reaction was heated to reflux for 0.5 hour, was allowed to cool, and the toluene was evaporated. The residue was triturated with hot hexanes (75 mL). The isolated solid was recrystallized from ethyl acetate/hexanes (1:1) to afford the title compound (0.44 g); mp 233°-234° C.; NMR: 11.47 (bs, 1), 7.79 (s, 1), 7.58 (d, 1, J=8.9), 7.34-7.31 (m, 2), 6.91 (d, 1, J=3.4), 6.61 (m, 1), 3.82 (s, 3). Analysis for C15H10ClNO4 0.5 H2O.: Calculated: C, 57.61; H, 3.54; N, 4.47; Found C, 57.77; H, 3.13; N, 4.46.

reactant | 8-chloro-4-iodo-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz-[b]azepine | 1.0 g | ClC=1C=CC2=C(NC(C(=C(C2=O)I)OC)=O)C1 | C11H7ClINO3
reactant | 2-tributylstannylfuran | 1.2 g | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.026 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tri(2-furyl)phosphine | 0.026 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
product | 8-Chloro-4-furan-2-yl-3-hydroxy-1H-benzo(b)azepine-2,5-dione | 0.44 g | ClC=1C=CC2=C(NC(C(=C(C2=O)C=2OC=CC2)O)=O)C1 | C14H8ClNO4
